US08222416B2
To a suspension of 1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridine (0.45 g, 1.56 mmol) in dry tetrahydrofuran (20 mL) at −78° C. was added freshly prepared lithium diisopropylamide [prepared by adding 1.6 M n-butyllithium in n-hexane (1.5 mL, 2.34 mmol) to a 0° C. solution of diisopropylamine (0.35 mL, 2.48 mmol) in dry tetrahydrofuran (10 mL)] dropwise. The mixture was stirred at −78° C. for 5 min and then treated with cyclohexanecarbaldehyde (353.8 mg, 2.81 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h and then quenched with brine. The mixture was extracted with ethyl acetate (2×200 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 20% ethyl acetate/hexanes) afforded 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclohexyl-ethanol (240 mg, 37.2%) as a white solid: LC/MS m/e calcd for C22H26N2O4S [M+H]+ 415.53, observed 415.3.

reactant | 1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 1.56 mmol, 0.45 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)OC | C14H12N2O3S
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | n-hexane | 2.34 mmol, 1.5 mL | CCCCCC | C6H14
reactant | diisopropylamine | 2.48 mmol, 0.35 mL | C(C)(C)NC(C)C | C6H15N
reactant | cyclohexanecarbaldehyde | 2.81 mmol, 353.8 mg | C1(CCCCC1)C=O | C7H12O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclohexyl-ethanol | 240 mg, 37.2% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(CC2CCCCC2)O | C22H26N2O4S
